data/oMe_Silver.jsonl
{"reaction_id": "NR-105_1-Cl_2-SC_3-S(=O)(=O)N(C)C_4-C#CC2CCCCC2_5-CC","level": "medium","name": "Hemetsberger-Knittel Indole Synthesis","reactants_smiles": ["[N-]=[N+]=N/C(=C/c1c(C#CC2CCCCC2)c(S(=O)(=O)N(C)C)c(SC)c(Cl)c1)\\C(=O)OCC"],"products_smiles": ["c1c(C(=O)OCC)[nH]c2c1c(C#CC2CCCCC2)c(S(=O)(=O)N(C)C)c(SC)c2Cl"],"conditions": "Heat","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[N]/C(=C/c1c(C#CC2CCCCC2)c(S(=O)(=O)N(C)C)c(SC)c(Cl)c1)\\C(=O)OCC","step_weight": 0,"rationale": "Thermal conditions promote loss of N₂ from the azide due to its excellent leaving group ability, generating an electron-deficient nitrene stabilized by conjugation with the alkene."},{"step": 2,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "CCOC(=O)C1C=C2C(=[n]1)c(c(c(c2C#CC2CCCCC2)S(=O)(=O)N(C)C)SC)Cl","step_weight": 0,"rationale": "The nitrene undergoes a 6π-electrocyclization driven by conjugation between the alkene and aromatic ring, forming the bicyclic indole skeleton under thermal control."},{"step": 3,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "c1c(C(=O)OCC)[nH]c2c1c(C#CC2CCCCC2)c(S(=O)(=O)N(C)C)c(SC)c2Cl","step_weight": 0,"rationale": "A sigmatropic hydrogen shift restores aromaticity in the heterocycle, as aromatization provides strong thermodynamic driving force for the rearrangement."}],"description": "Upon heating, the azide undergoes nitrogen extrusion to form a reactive nitrene intermediate, which then cyclizes via electrocyclization to form the indole framework. A subsequent sigmatropic rearrangement aromatizes the ring, yielding the substituted indole product."}
{"reaction_id": "NR-116_1-c1ccccc1_2-C(F)(F)F_3-C(C)(C)C_4-C(C)(C)C","name": "Japp-Klingemann Reaction","level": "medium","reactants_smiles": ["C(=O)(c1ccccc1)C(C(F)(F)F)C(=O)OC(C)(C)C","N#[N+]C(C)(C)C"],"products_smiles": ["C(=O)(OC(C)(C)C)C(=N[NH]C(C)(C)C)C(F)(F)F"],"conditions": "[OH-]","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[O-]C(=C(C(=O)OC(C)(C)C)C(F)(F)F)c1ccccc1","rationale": "Strong base deprotonates the acidic α-proton between carbonyls due to resonance stabilization of the resulting enolate."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(=O)OC(C)(C)C)(C(=O)c1ccccc1)(N=NC(C)(C)C)C(F)(F)F","rationale": "The nucleophilic enolate carbon attacks the electrophilic diazonium nitrogen, driven by the strong electrophilicity of the diazonium group."},{"step": 3,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(C(=O)OC(C)(C)C)(C(O)([O-])(c1ccccc1))(N=NC(C)(C)C)C(F)(F)F","rationale": "Electrophilic addition of hydroxide to the carbonyl occurs due to increased electrophilicity from adjacent electron-withdrawing groups."},{"step": 4,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "C(=O)(OC(C)(C)C)C(=N[N-]C(C)(C)C)C(F)(F)F","rationale": "Heterolytic cleavage occurs as the leaving group departs, stabilized by resonance in the resulting imine-like intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(OC(C)(C)C)C(=N[NH]C(C)(C)C)C(F)(F)F","rationale": "Proton transfer under basic conditions neutralizes the anionic nitrogen, yielding the stable hydrazone product."}],"description": "Under basic conditions, the α-proton of the β-keto acid is deprotonated to form an enolate, which nucleophilically attacks the diazonium species. Subsequent rearrangements and cleavages yield the hydrazone product, stabilized by conjugation with the carbonyl group."}
